US07018988B2
(2S)-N2-(9-ethyl-9H-carbazol-3-yl)-4-methylene-N1-phenyl-1,2-pyrrolidinedicar-boxamide
Following the general method as outlined in Example 22, starting from 1-(tert-butoxycarbonyl)-4-methyleneproline, isocyanatobenzene, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 66% purity by LC/MS. MS(ESI+): m/z=439.2.

reactant | 1-(tert-butoxycarbonyl)-4-methyleneproline | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)CC(C1)=C | C11H17NO4
reactant | isocyanatobenzene | N(=C=O)C1=CC=CC=C1 | C7H5NO
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S)-N2-(9-ethyl-9H-carbazol-3-yl)-4-methylene-N1-phenyl-1,2-pyrrolidinedicar-boxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=C)C(=O)NC1=CC=CC=C1 | C27H26N4O2
